US06051712
In an analogous manner to that described in Example 125 (h), from tert-butyl (3RS,4RS)-4-[2-(3-benzyloxy-propylsulphanyl)-pyrimidin-5-yl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate by cleavage of the BOC group by means of anhydrous zinc bromide there was obtained 2-(3-benzyloxy-propylsulphanyl)-5-[(3RS,4RS)-3-(naphthalen-2-ylmethoxy)-piperidin-4-yl]-pyrimidine in in the form of an amorphous, colourless solid; MS: 500 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[2-(3-benzyloxy-propylsulphanyl)-pyrimidin-5-yl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCSC1=NC=C(C=N1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C35H41N3O4S
catalyst | zinc bromide | [Br-].[Zn+2].[Br-]
product | 2-(3-benzyloxy-propylsulphanyl)-5-[(3RS,4RS)-3-(naphthalen-2-ylmethoxy)-piperidin-4-yl]-pyrimidine | C(C1=CC=CC=C1)OCCCSC1=NC=C(C=N1)C1C(CNCC1)OCC1=CC2=CC=CC=C2C=C1 | C30H33N3O2S
